US03978229
2.5 ml. of a 1.2M solution of n-butyllithium in n-hexane were added dropwise to a solution of 0.33 ml. of phenylacetylene in 5 ml. of anhydrous tetrahydrofuran under an atmosphere of nitrogen with stirring at -20°C., and the reaction mixture was stirred at the same temperature for 40 minutes to give a lithio-phenylacetylene solution. The lithio-phenylacetylene solution thus obtained was added dropwise under an atmosphere of nitrogen with stirring at -78°C. to a solution of 1.05 g. of 1α,4α-diacetoxy-2α-(6-methoxycarbonylhex-cis-2-enyl)-3β-(6-methoxycarbonylhex-cis-2-enyl)-3β-(2-formyleth-trans-1-enyl)-cyclopentane (prepared as described in Procedure R) in 10 ml. of anhydrous tetrahydrofuran and the reaction mixture was stirred at the same temperature for 2 hours. A saturated aqueous ammonium chloride solution was added to the reaction mixture, which was extracted with ethyl acetate. The extracts were washed with an aqueous sodium chloride solution, dried over sodium sulphate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel using a mixture of benzene and ethyl acetate (5:1) as eluent to give 1.097 g. of the title compound having the following physical characteristics:

reactant | n-butyllithium | C(CCC)[Li]
reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
product | lithio-phenylacetylene | [Li]C#CC1=CC=CC=C1 | InChI=1S/C8H5.Li/c1-2-8-6-4-3-5-7-8;/h3-7H;
